US05532267
6-Amidino-2-naphthyl 5-(3-carboxy-2,3-dimethylpropionylaminomethyl)furan-2-carboxylate hydrochloride
To 2.3 g of 2,3-dimethylsuccinic acid, 2.0 g of -amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride and 66 mg of DMAP was added 25 ml of pyridine, and the mixture was stirred while cooling with ice. After 10 minutes, 2.16 g of DCC was added and the mixture was stirred for 1 hour at 4°-8° C. and then for 2 hours at 16°-17° C. The precipitate was filtered off, the filtrate was added in small portions into 150 ml of ether and the mixture was stirred for 1 hour at room temperature. The precipitate was collected by filtration, then 60 ml of acetone was added thereto and the mixture was stirred for 3 hours. The precipitate was collected by filtration to obtain 1.3 g of the intended product.

reactant | 2,3-dimethylsuccinic acid | 2.3 g | CC(C(=O)O)C(C(=O)O)C | C6H10O4
reactant | amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride | Cl.Cl.NCC1=CC=C(O1)C(=O)OC1=C(C2=CC=CC=C2C=C1)C(N)=N
reactant | DCC | 2.16 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 66 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 6-Amidino-2-naphthyl 5-(3-carboxy-2,3-dimethylpropionylaminomethyl)furan-2-carboxylate hydrochloride | 1.3 g | Cl.C(=O)(O)C(C(C(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N)C)C | InChI=1S/C23H23N3O6.ClH/c1-12(13(2)22(28)29)21(27)26-11-18-7-8-19(31-18)23(30)32-17-6-5-14-9-16(20(24)25)4-3-15(14)10-17;/h3-10,12-13H,11H2,1-2H3,(H3,24,25)(H,26,27)(H,28,29);1H
